US07790747B2
To a solution of 1,1-diacetyl-2,3-dimethyl-isothiourea (0.17 g, 0.90 mmol) in MeOH (10 ml) was added K2CO3 (250 mg, 1.81 mmol) and the reaction stirred at room temperature for 1.5 h. The mixture was concentrated, diluted with CH2Cl2 (25 ml) and water (20 ml) and the aqueous layer was extracted with CH2Cl2 (2×10 ml), dried (Na2SO4) and concentrated to afford 1-acetyl-2,3-dimethyl-isothiourea (112 mg, 85%) as a white solid. 1H NMR (CDCl3) δ 2.10 (s, 3H), 2.43 (s, 3H), 2.93 (s, 3H).

reactant | 1,1-diacetyl-2,3-dimethyl-isothiourea | 0.90 mmol, 0.17 g | C(C)(=O)N(C(SC)=NC)C(C)=O | C7H12N2O2S
reactant | K2CO3 | 1.81 mmol, 250 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 10 ml | CO | CH4O
product | 1-acetyl-2,3-dimethyl-isothiourea | 112 mg, 85% | C(C)(=O)NC(SC)=NC | C5H10N2OS
